US07507760B2
(R)—N-(1-Benzhydryl-pyrrolidin-3-yl)-2-diphenylamino-N-methyl-acetamide
To a solution of bromodiphenylmethane (0.3 g, 1.23 mmol) in butanone (10 ml) was added (R)-2-diphenylamino-N-methyl-N-pyrrolidin-3-yl-acetamide (0.46 g, 1.5 mmol), K2CO3 (0.17 g, 1.23 mmol) and KI (0.2 g, 1.23 mmol). The mixture was heated under reflux for 18 hours, then filtered and the solvent was removed in vacuo. The residue was dissolved in CH2Cl2, (50 ml) and washed with water (10 ml). Drying over MgSO4 and removal of solvent under reduced pressure followed by column chromatography using Hex:EtOAc (3:1) gave the desired product.

reactant | bromodiphenylmethane | 1.23 mmol, 0.3 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | (R)-2-diphenylamino-N-methyl-N-pyrrolidin-3-yl-acetamide | 1.5 mmol, 0.46 g | C1(=CC=CC=C1)N(CC(=O)N([C@H]1CNCC1)C)C1=CC=CC=C1 | C19H23N3O
reactant | K2CO3 | 1.23 mmol, 0.17 g | C(=O)([O-])[O-].[K+].[K+]
solvent | butanone | 10 ml | CC(CC)=O | C4H8O
product | (R)—N-(1-Benzhydryl-pyrrolidin-3-yl)-2-diphenylamino-N-methyl-acetamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C[C@@H](CC1)N(C(CN(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C32H33N3O
